US05073551
Benzhydryl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(Z)-2-(4-methyl-1,2,3-thiadiazol-5-yl)vinyl]-3-cephem-4-carboxylate (1.38 g, 1.2 mmol) was stirred at room temperature for 1 hour by addition of formic acid (14 ml). Concentrated hydrochloric acid (0.11 ml) was added to the reaction solution and the mixture was stirred at room temperature for 1 hour. The reaction solution was concentrated under reduced pressure and the residue was cleansed with ether thereby a yellow powder product was obtained. This one was dissolved in aqueous sodium bicarbonate solution and purified by HP-20 column chromatography thereby sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(Z)-2-(4-methyl-1,2,3-thiadiazol-5-yl)vinyl]-3-cephem-4-carboxylate (79 mg) was obtained.

reactant | Benzhydryl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(Z)-2-(4-methyl-1,2,3-thiadiazol-5-yl)vinyl]-3-cephem-4-carboxylate | 1.2 mmol, 1.38 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C2=C(N=NS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C68H53N7O5S3
reactant | formic acid | 14 ml | C(=O)O | CH2O2
reactant | hydrochloric acid | 0.11 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | sodium 7-[(Z)-2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-[(Z)-2-(4-methyl-1,2,3-thiadiazol-5-yl)vinyl]-3-cephem-4-carboxylate | 79 mg | NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C/C2=C(N=NS2)C)C(=O)[O-])C1=O)=N/O.[Na+] | InChI=1S/C17H15N7O5S3.Na/c1-6-9(32-23-21-6)3-2-7-4-30-15-11(14(26)24(15)12(7)16(27)28)20-13(25)10(22-29)8-5-31-17(18)19-8;/h2-3,5,11,15,29H,4H2,1H3,(H2,18,19)(H,20,25)(H,27,28);/q;+1/p-1/b3-2-,22-10-;/t11?,15-;/m1./s1
